US07629358B2
Preparation 57: ethyl[3-(2-azidoethyl)phenyl]acetate
Sodium azide (2.82 g, 43.3 mmol) was added in one portion to a stirred solution of ethyl(3-{2-[(methylsulfonyl)oxy]ethyl}phenyl)acetate (Preparation 56) (6.20 g, 21.7 mmol) in N,N-dimethylformamide (400 ml) at room temperature. The reaction was heated at 60° C. for 1 hour and then allowed to cool to room temperature and the solvent removed in vacuo. Ethyl acetate (200 ml) and water (75 ml) was added and the organics separated, the aqueous was washed with ethyl acetate (2×100 ml) and the combined organics evaporated in vacuo to yield an oil that was purified by flash column chromatography on silica gel eluting with ethyl acetate:penatane (5:95, by volume) to give the title compound as a colourless oil (4.65 g). 1H NMR (400 MHz, CDCl3): δ=7.27-7.23 (1H, t), 7.17-7.12 (3H, m), 4.15-4.06 (2H, m), 3.60 (2H, s), 3.51-3.47 (2H, t), 2.87-2.84 (2H, t), 1.24-1.20 (3H, t) ppm. LRMS (electrospray): M/Z [M+NA]+256, [M−H]− 232.

reactant | Sodium azide | 43.3 mmol, 2.82 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl(3-{2-[(methylsulfonyl)oxy]ethyl}phenyl)acetate | 21.7 mmol, 6.20 g | C(C)OC(CC1=CC(=CC=C1)CCOS(=O)(=O)C)=O | C13H18O5S
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | ethyl[3-(2-azidoethyl)phenyl]acetate | 4.65 g | C(C)OC(CC1=CC(=CC=C1)CCN=[N+]=[N-])=O | C12H15N3O2
